US06833366B1
To a stirred solution of ethyl (3S)-3-aminopent-4-ynoate hydrochloride (Ref: WO 9802410, 20 g) in water (200 mL) at 23° C. was added sodium bicarbonate (20 g). Then ether (100 mL) and di-tert-butyl dicarbonate (Aldrich, 25 g) were added. After 16 hours, the mixture was extracted with ether and water. The organic extract was washed with aqueous potassium hydrogen sulfate (0.5N, 200 mL), dried over MgSO4 and concentrated in vacuo to provide ethyl (3S)-3-[(tert-butoxycarbonyl)amino]pent-4-ynoate as a clear liquid. A mixture of this product (3.6 g), iodobenzene (Aldrich, 2.041 g) and dichlorobis(triphenylphosphine)palladium (II) (Aldrich, 70 mg), copper(I) iodide (Aldrich, 10 mg) and diethylamine (Aldrich, 60 mL) in a pressure bottle was purged with nitrogen and heated to 65° C. for 4 hours. The mixture was concentrated in vacuo. The residue was extracted with ethyl acetate and water. The organic extract was dried over MgSO4 and concentrated in vacuo. The residue was purified by chromatography to provide the tert-butoxycarbonyl derivative of ethyl (3S)-3-amino-5-phenylpent-4-ynoate. This material was dissolved in 4 N HCL dioxane (Aldrich, 10 mL) and allowed to stand at 23° C. for 30 minutes. The volatiles were removed in vacuo to provide ethyl (3S)-3-amino-5-phenylpent-4-ynoate hydrochloride as colorless solid. 1H (DMSO-d6): δ 7.43 (5H, m); 4.61 1 h, q); 4.13 (2H, q); 3.18 (1H, dd), 2.92 (1H, dd): 1.21 (3H, t). To a stirred suspension of this product (0.41 g) and the product of EXAMPLE 1, STEP 3 (0.52 g), bromo-trispyrrolidino-phosphonium hexafluorophosphate (0.75 g) in dimethyl acetamide (Aldrich, 4 mL) was added diisoproylethylamine (0.86 mL). After 16 h at 23° C., the solution was heated on a steam bath for 16 hours. The mixture was extracted with ethyl acetate and water. The organic phase was washed with water, saturated solution of NaHCO3, dried over MgSO4 and concentrated in vacuo. The residue was heated with 4N hydrochloric acid (5 mL) heated on a steam bath for 16 hours. The solution was concentrated in vacuo and the residue was purified by HPLC to provide the title product as a gum. 1H (CD3OD): δ 7.87 (1H, t); 7.81 (1H, d); 7.50 (1H, d); 7.42 (2H, m); 7.22 (3H, m); 7.08 (1H, d); 7.02 (3H, m); 6.87 (1H, t); 4.67 (1H, t); 4.00 (2H, t); 3.37 (2H, t); 2.77 (2H, d); 1.83 (4H, m).

reactant | ethyl (3S)-3-aminopent-4-ynoate hydrochloride | 20 g | Cl.N[C@@H](CC(=O)OCC)C#C
reactant | sodium bicarbonate | 20 g | C([O-])(O)=O.[Na+]
reactant | ether | 100 mL | CCOCC | C4H10O
reactant | di-tert-butyl dicarbonate | 25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 200 mL | O | H2O
product | ethyl (3S)-3-[(tert-butoxycarbonyl)amino]pent-4-ynoate | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)OCC)C#C | C12H19NO4
